* C:\Users\DELL\OneDrive - Indian Institute of Technology Guwahati\Documents\LTspiceXVII\lib\sym\Sallen key.asc
XU1 N005 N003 N007 N001 N003 OPAx134
XU2 N006 Vout N007 N001 Vout OPAx134
R1A N002 P001 {mc(17.4k, R_tol)}
R2A N002 N005 {mc(17.4k, R_tol)}
C1A N003 N002 {mc(1n, C_tol)}
C2A 0 N005 {mc(820p, C_tol)}
C2B N006 0 {mc(150p, C_tol)}
R1B N004 N003 {mc(41.2k, R_tol)}
R2B N006 N004 {mc(41.2k, R_tol)}
C1B Vout N004 {mc(1n, C_tol)}
V1 N007 0 15
V2 0 N001 15
Vin P001 0 AC 1
.include OPAx134.lib
.ac dec 100 100 10Meg
.step param run 1 200 1
.param R_tol = 0.05
.param C_tol = 0.05
.backanno
.end
